US07855297B2
N-(4-Isopropylphenyl)-7-methoxy-N-[(4-methylaminophenyl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.77 g) was dissolved in ethanol (8 mL), and butyl aldehyde (250 mg) and sodium cyanoborohydride (0.22 g) were added. Acetic acid was added to this solution to pH 5-6, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was partitioned between saturated aqueous sodium hydrogencarbonate and ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography to give N-{[4-(butylmethylamino)phenyl]methyl}-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.51 g).

reactant | N-(4-Isopropylphenyl)-7-methoxy-N-[(4-methylaminophenyl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.77 g | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=C(C=C12)OC)CC1=CC=C(C=C1)NC | C29H34N2O2
reactant | sodium cyanoborohydride | 0.22 g | C(#N)[BH3-].[Na+]
reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | ethanol | 8 mL | C(C)O | C2H6O
product | N-{[4-(butylmethylamino)phenyl]methyl}-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.51 g | C(CCC)N(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C)C | C33H42N2O2
